### PR TITLE
[Merged by Bors] - feat: some lemmas about List and ZMod

### PR DESCRIPTION
**Pull request by javra**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/Basic.lean [hunk 1]
```diff
@@ -2069,6 +2069,9 @@ theorem tail_drop (l : List α) (n : ℕ) : (l.drop n).tail = l.drop (n + 1) :=
     · simp [hl]
 #align list.tail_drop List.tail_drop
 
+theorem drop_tail (l : List α) (n : ℕ) : l.tail.drop n = l.drop (n + 1) := by
```
Comment (alexjbest) [inline Mathlib/Data/List/Basic.lean:2072]: This could be a useful simp lemma

File: Mathlib/Data/ZMod/Basic.lean [hunk 2]
```diff
@@ -566,6 +569,22 @@ theorem ker_int_castRingHom (n : ℕ) :
   rw [Ideal.mem_span_singleton, RingHom.mem_ker, Int.coe_castRingHom, int_cast_zmod_eq_zero_iff_dvd]
 #align zmod.ker_int_cast_ring_hom ZMod.ker_int_castRingHom
 
+theorem cast_injective_of_lt {m n : ℕ} [nzm : NeZero m] (h : m < n) :
+  Function.Injective (@cast (ZMod n) _ m) := by
```
Comment (alexjbest) [inline Mathlib/Data/ZMod/Basic.lean:573]:
```suggestion
    Function.Injective (@cast (ZMod n) _ m) := by
```

File: Mathlib/Data/ZMod/Basic.lean [hunk 3]
```diff
@@ -873,6 +920,27 @@ theorem neg_val {n : ℕ} [NeZero n] (a : ZMod n) : (-a).val = if a = 0 then 0 e
...
 #align zmod.neg_val ZMod.neg_val
 
+theorem val_neg_of_ne_zero {n : ℕ} [nz : NeZero n] (a : ZMod n) [na : NeZero a] :
+    (- a).val = n - a.val := by simp_all [neg_val a, na.out]
+
+theorem val_sub {n : ℕ} [NeZero n] {a b : ZMod n} (h : b.val ≤ a.val) :
+    (a - b).val = a.val - b.val := by
+  by_cases hb : b = 0
+  · cases hb; simp
+  · haveI : NeZero b := ⟨hb⟩
```
Comment (alexjbest) [inline Mathlib/Data/ZMod/Basic.lean:930]:
```suggestion
  · have : NeZero b := ⟨hb⟩
```
haveI is inline have in lean 4, which you are unlikely to need, especially in a proof

File: Mathlib/Logic/Basic.lean [hunk 4]
```diff
@@ -1280,4 +1280,13 @@ theorem ite_ite_comm (h : P → ¬Q) :
...
 #align ite_ite_comm ite_ite_comm
 
+variable {R : Prop}
+
+theorem ite_prop_iff_or : (if P then Q else R) ↔ (P ∧ Q ∨ ¬ P ∧ R) := by
+  by_cases p : P <;> simp [p]
+
+-- TODO make this a simp lemma in a future PR
+theorem ite_prop_iff_and : (if P then Q else R) ↔ ((P → Q) ∧ (¬ P → R)) := by
+  by_cases p : P <;> simp [p]
```
Comment (alexjbest) [inline Mathlib/Logic/Basic.lean:1290]: Fancy adding @eric-wieser's `dite` versions here also? (from the thread)

File: Mathlib/Data/ZMod/Basic.lean [hunk 5]
```diff
@@ -566,6 +569,22 @@ theorem ker_int_castRingHom (n : ℕ) :
...
+  cases m with
+  | zero => cases nzm; simp_all
+  | succ m =>
+    rintro ⟨x, hx⟩ ⟨y, hy⟩ f
+    simp only [cast, val, nat_cast_eq_nat_cast_iff',
+      Nat.mod_eq_of_lt (lt_trans hx h), Nat.mod_eq_of_lt (lt_trans hy h)] at f
+    apply Fin.ext
+    exact f
+
+theorem cast_ZMod_eq_zero_iff_of_lt {m n : ℕ} [NeZero m] (h : m < n) (a : ZMod m) :
```
Comment (alexjbest) [inline Mathlib/Data/ZMod/Basic.lean:583]:
```suggestion
theorem cast_zmod_eq_zero_iff_of_lt {m n : ℕ} [NeZero m] (h : m < n) (a : ZMod m) :
```
seems to be the convention https://loogle.lean-fro.org/?q=%22_ZMod%22

File: Mathlib/Logic/Basic.lean (hunk 4 above)
Comment (javra) [reply Mathlib/Logic/Basic.lean:1290]: Will do, I'll make it a simp lemma at some later point, since it breaks quite some files.

File: Mathlib/Data/List/Basic.lean (hunk 1 above)
Comment (javra) [reply Mathlib/Data/List/Basic.lean:2072]: `List.tail_drop` isn't marked as simp either. I'll try adding them both

File: Mathlib/Data/ZMod/Basic.lean [hunk 6]
```diff
@@ -599,13 +618,41 @@ theorem val_add {n : ℕ} [NeZero n] (a b : ZMod n) : (a + b).val = (a.val + b.v
   · apply Fin.val_add
 #align zmod.val_add ZMod.val_add
 
+theorem val_add_of_lt {n : ℕ} [NeZero n] {a b : ZMod n} (h : a.val + b.val < n) :
+    (a + b).val = a.val + b.val := by rw [ZMod.val_add, Nat.mod_eq_of_lt h]
```
Comment (eric-wieser) [inline Mathlib/Data/ZMod/Basic.lean:622]: Why does this need `[NeZero n]`? It's implied by `h`, right?

File: Mathlib/Data/ZMod/Basic.lean [hunk 7]
```diff
@@ -821,6 +868,10 @@ theorem val_eq_zero : ∀ {n : ℕ} (a : ZMod n), a.val = 0 ↔ a = 0
     exact Iff.rfl
 #align zmod.val_eq_zero ZMod.val_eq_zero
 
+theorem val_ne_zero {n : ℕ}  (a : ZMod n) : a.val ≠ 0 ↔ a ≠ 0 := by
+  rw [not_iff_not]
+  apply val_eq_zero
```
Comment (eric-wieser) [inline Mathlib/Data/ZMod/Basic.lean:873]:
```suggestion
theorem val_ne_zero {n : ℕ} (a : ZMod n) : a.val ≠ 0 ↔ a ≠ 0 :=
  val_eq_zero.not
```
or similar

File: Mathlib/Data/ZMod/Basic.lean [hunk 8]
```diff
@@ -873,6 +924,27 @@ theorem neg_val {n : ℕ} [NeZero n] (a : ZMod n) : (-a).val = if a = 0 then 0 e
...
+theorem val_sub {n : ℕ} [NeZero n] {a b : ZMod n} (h : b.val ≤ a.val) :
+    (a - b).val = a.val - b.val := by
+  by_cases hb : b = 0
+  · cases hb; simp
+  · have : NeZero b := ⟨hb⟩
+    rw [sub_eq_add_neg, val_add, val_neg_of_ne_zero, ← Nat.add_sub_assoc (le_of_lt (val_lt _)),
+      add_comm, Nat.add_sub_assoc h, Nat.add_mod_left]
+    apply Nat.mod_eq_of_lt (tsub_lt_of_lt (val_lt _))
+
+theorem val_cast_eq_val_of_lt {m n : ℕ} [nzm : NeZero m] [nzn : NeZero n] {a : ZMod m}
```
Comment (eric-wieser) [inline Mathlib/Data/ZMod/Basic.lean:939]: `[nzn : NeZero n]` is implied by `h` here.

File: Mathlib/Data/ZMod/Basic.lean (hunk 6 above)
Comment (javra) [reply Mathlib/Data/ZMod/Basic.lean:622]: Oh, yes, thanks, didn't catch that

File: Mathlib/Data/ZMod/Basic.lean (hunk 7 above)
Comment (javra) [reply Mathlib/Data/ZMod/Basic.lean:873]: Hm, maybe we shouldn't have that lemma at all, then...

Comment (eric-wieser) [reply Mathlib/Data/ZMod/Basic.lean:873]: I think we generally are in favor of these `ne_zero` lemmas, even though the proof is trivial.

File: Mathlib/Data/ZMod/Basic.lean [hunk 9]
```diff
@@ -821,6 +870,9 @@ theorem val_eq_zero : ∀ {n : ℕ} (a : ZMod n), a.val = 0 ↔ a = 0
     exact Iff.rfl
 #align zmod.val_eq_zero ZMod.val_eq_zero
 
+theorem val_ne_zero {n : ℕ}  (a : ZMod n) : a.val ≠ 0 ↔ a ≠ 0 :=
```
Comment (alexjbest) [inline Mathlib/Data/ZMod/Basic.lean:873]:
```suggestion
theorem val_ne_zero {n : ℕ} (a : ZMod n) : a.val ≠ 0 ↔ a ≠ 0 :=
```

**Comment by alexjbest** [comment]
maintainer merge

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
